US04244885
α-(Methylaminocarbonyl)amino-4-hydroxybenzeneacetic acid
To 0.1 mole of α-amino-4-hydroxybenzeneacetic acid dissolved in 500 ml of water containing 0.05 mole of acetic acid is added 0.11 mole of methyl isocyanate. This mixture is stirred for 30 minutes at room temperature. The reaction mixture is saturated with sodium chloride and then extracted with ethyl acetate. The ethyl acetate is washed with water, dried over magnesium sulfate, filtered and evaporated to give the title compound.

reactant | α-amino-4-hydroxybenzeneacetic acid | 0.1 mole | NC(C(=O)O)C1=CC=C(C=C1)O | C8H9NO3
reactant | water | 0.05 mole, 500 ml | O | H2O
reactant | methyl isocyanate | 0.11 mole | CN=C=O | C2H3NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-(Methylaminocarbonyl)amino-4-hydroxybenzeneacetic acid | CNC(=O)NC(C(=O)O)C1=CC=C(C=C1)O | C10H12N2O4
